data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_282380_0,[C:1]12([H:6])[C:3]([H:8])([H:9])[C:2]([H:7])([O:4]1)[O:5]2>>[C:1]([C:3]([C:2](=[O:5])[H:7])([H:8])[H:9])(=[O:4])[H:6],7.994977500003415
MR_669924_0,[C:1]([C:4](/[N:6]=[C:3](\[C:2]([O:5][H:9])=[O:8])[N:7][H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C@:4]([C:2]([O:5][H:9])=[O:8])([N:6][C:3][N:7][H:10])[H:11])([H:12])([H:13])[H:14],70.8591825000147
MR_71116_1,[C:1]([C:2]([H:9])([H:10])[H:14])([C:3]([H:11])([H:12])[H:13])([O:4][O:5][H:7])[O:6][H:8]>>[C:1]([C:2]([H:9])([H:10])[H:14])([C:3]([H:11])([H:12])[H:13])([O:4][O:6][H:8])[O:5][H:7],66.69948499995883
MR_119215_1,[C:1]([C:4]([H:18])([H:19])[H:20])([C:5]([C:2]([C:3]([H:15])([H:16])[H:17])([N:7]([H:13])[H:14])[H:10])=[O:8])([N:6]([H:11])[H:12])[H:9]>>[C:1]1([C:4]([H:18])([H:19])[H:20])([H:9])[C:5]([C:2]([C:3]([H:15])([H:16])[H:17])([N:7]([H:13])[H:14])[H:10])([N:6]([H:11])[H:12])[O:8]1,70.2040725000279
MR_611211_1,[C:1]([C:2]([H:14])([H:15])[H:16])([C:4]([O:7][H:9])=[O:8])([O:6][N:3]([N:5]([H:12])[H:13])[H:10])[H:11]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:4]([O:7][H:9])([O:8][H:13])[H:10])([O:6]/[N:3]=[N:5]/[H:12])[H:11],57.707409999976
MR_90014_0,[C:1]([N:3]([O:5][H:7])/[N:6]=[C:4](\[C:2]([H:12])([H:13])[H:14])[H:8])([H:9])([H:10])[H:11]>>[C:1](/[N:3]=[N:6]/[C:4]([C:2]([H:12])([H:13])[H:14])([O:5][H:7])[H:8])([H:9])([H:10])[H:11],49.33718750002825
MR_696836_1,[C:1](/[C:4]([O:6][H:9])=[N:7]/[C:2]([H:13])([H:14])[H:15])(/[C:5](=[N:8]\[C:3]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11]>>[C:1](=[C:4]([O:6][H:9])[N:7]([C:2]([H:13])([H:14])[H:15])/[C:5](=[N:8]/[C:3]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11],61.300475000000034
MR_95501_1,[C:1](/[C:4]([C:3]([H:14])([H:15])[H:16])=[N:7]/[H:10])([O:5][C:2]([H:11])([H:12])[H:13])([O:6][H:8])[H:9]>>[C:1]1([O:6][H:8])([H:9])[C:4]([C:3]([H:14])([H:15])[H:16])([O:5][C:2]([H:11])([H:12])[H:13])[N:7]1[H:10],68.18101249999927
MR_210547_1,[C:1](/[N:3]=[C:4](\[N:6]([H:9])[H:10])[N:7]([C:5]([C:2]([H:15])([H:16])[H:17])=[O:8])[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:3](/[C:4]([N:6]([H:9])[H:10])=[N:7]/[H:11])[C:5]([C:2]([H:15])([H:16])[H:17])=[O:8])([H:12])([H:13])[H:14],41.30142249998514
MR_94895_0,[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])=[C:6]([C:3]([N:5]([H:8])[H:9])=[C:7]([H:17])[H:18])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:4]1([C:2]([H:14])([H:15])[H:16])[C:6]([H:10])=[C:3]([N:5]([H:8])[H:9])[C:7]1([H:17])[H:18])([H:11])([H:12])[H:13],44.80789249997813
MR_519258_1,[N:1]([N:3]([H:9])[H:10])([C:6](=[C:2]([N:4]([H:12])[H:13])[N:5]([H:11])[H:14])[H:15])[C:7](=[C:8]([H:17])[H:18])[H:16]>>[N:1](\[N:3]([H:9])[H:10])=[C:6](/[C:2]([N:4]([H:12])[H:13])([N:5]([H:11])[H:14])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:15],65.91950250000195
MR_27320_1,[C@:1]([C:3]([H:13])([H:14])[H:15])([C:4]([C:2]([H:10])([H:11])[H:12])=[O:6])([C:5](=[O:7])[H:9])[H:8]>>[C:1](\[C:3]([H:13])([H:14])[H:15])(=[C:4](/[C:2]([H:10])([H:11])[H:12])[O:6][C:5](=[O:7])[H:9])[H:8],52.80224250001879
MR_347006_1,[C:1]([C:5](/[C:4]([N:7]([H:9])[H:10])=[N:8]/[H:11])=[C:6]([C:2]([H:15])([H:16])[H:17])[C:3]([H:18])([H:19])[H:20])([H:12])([H:13])[H:14]>>[C:1]([C:5]1=[C:4]([N:7]([H:9])[H:10])[N:8]([H:11])[C:6]1([C:2]([H:15])([H:16])[H:17])[C:3]([H:18])([H:19])[H:20])([H:12])([H:13])[H:14],46.84412999997349
MR_300000_1,[C:1](\[C:2]([H:13])([H:14])[H:15])(=[N:4]\[H:10])[C:5]([O:6][O:7][H:9])([N:8]([C:3]([H:16])([H:17])[H:18])[H:11])[H:12]>>[C:1]([C:2]([H:13])([H:14])[H:15])([N:4]([H:10])[H:11])(/[C:5](=[N:8]/[C:3]([H:16])([H:17])[H:18])[H:12])[O:6][O:7][H:9],37.61862499997363
MR_49713_1,[C:1]([C:4]1=[N:7][C:5]1([C:2]([H:13])([H:14])[H:15])/[C:6](=[N:3]/[H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([c:4]1[c:5]([C:2]([H:13])([H:14])[H:15])[c:6]([H:9])[n:3]([H:8])[n:7]1)([H:10])([H:11])[H:12],41.14894000001343
MR_621171_0,[C:1]([C:4]([C:3](/[C:5]([C:2]([H:14])([H:15])[H:16])=[N:7]\[H:10])=[N:6]/[H:9])=[O:8])([H:11])([H:12])[H:13]>>[C:1]([C:4]([C@@:5]1([C:2]([H:14])([H:15])[H:16])/[C:3](=[N:6]/[H:9])[N:7]1[H:10])=[O:8])([H:11])([H:12])[H:13],68.9867224999982
MR_193588_1,[C:1](/[C:3]([N:2]([C:4]([N:5]([H:12])[H:13])=[C:6]([H:17])[H:18])[O:7][H:10])=[N:9]\[O:8][H:11])([H:14])([H:15])[H:16]>>[C:1](/[C:3](=[N:2]/[O:7][H:10])[N:9]([C:4]([N:5]([H:12])[H:13])=[C:6]([H:17])[H:18])[O:8][H:11])([H:14])([H:15])[H:16],51.270514999998085
MR_249455_1,[C:1]([O:4][O:5][C:2]([C:3]([H:14])([H:15])[H:16])([O:8][H:11])[H:13])([O:6][H:9])([O:7][H:10])[H:12]>>[C:1]([O:5][O:4][C:2]([C:3]([H:14])([H:15])[H:16])([O:8][H:11])[H:13])([O:6][H:9])([O:7][H:10])[H:12],61.639952499999
MR_171355_0,[C:1]([C:4](=[C:5]([C:2]([H:14])([H:15])[H:19])[C:3]([H:16])([H:17])[H:18])[N:6]([H:9])[H:10])([C:7](=[O:8])[H:11])([H:12])[H:13]>>[C:1](=[C:4]([C:5]([C:2]([H:14])([H:15])[H:19])([C:3]([H:16])([H:17])[H:18])[C:7](=[O:8])[H:11])[N:6]([H:9])[H:10])([H:12])[H:13],42.215690000031
